US05990101
(1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-[3-methyl-2-(aminosulfonyl)aminomethylimidazo[5,1-b]thiazolium-6-yl)methyl-1-methyl-1-carbapen-2-em-3-carboxylate (internal salt)
The same procedure as in Example 1 was repeated except that in a deprotective reaction, two catalysts, i.e., 23.4 mg of tris(dibenzylideneacetone)dipalladium and 59.1 mg of tetrakis(triphenylphosphine)palladium were used, 0.14 ml of aniline was used as a trapping agent, and 110.3 mg of allyl (1S,5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-1-carbapen-2-em-3-carboxylate and 196 mg of 2-[N-allyloxycarbonyl-N-(aminosulfonyl)amino]methyl-3-methylimidazo[5,1-b]thiazole were used, thereby obtaining 14.2 mg of the title compound.

reactant | aniline | 0.14 ml | NC1=CC=CC=C1 | C6H7N
reactant | allyl (1S,5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-1-carbapen-2-em-3-carboxylate | 110.3 mg | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CO)C(=O)OCC=C)C1=O | C18H23NO7
reactant | 2-[N-allyloxycarbonyl-N-(aminosulfonyl)amino]methyl-3-methylimidazo[5,1-b]thiazole | 196 mg | C(C=C)OC(=O)N(S(=O)(=O)N)CC1=C(N2C(S1)=CN=C2)C | C11H14N4O4S2
catalyst | tris(dibenzylideneacetone)dipalladium | 23.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tetrakis(triphenylphosphine)palladium | 59.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-[3-methyl-2-(aminosulfonyl)aminomethylimidazo[5,1-b]thiazolium-6-yl)methyl-1-methyl-1-carbapen-2-em-3-carboxylate | 14.2 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CN2C=[N+]3C(SC(=C3C)CNS(=O)(=O)N)=C2)C(=O)[O-])C1=O | C18H23N5O6S2
